US04569907
Synthesis of L-Leucylglycine Ethyl Ester Hydrochloride
To a solution of leucylglycine (5 g, 27 mmol) in 30 ml ethanol cooled to 0° was added SOCl2 (4.1 g, 35 mmol). The reaction solution was stirred overnight at room temperature. The ethanol was removed in vacuo, yielding a glassy product with a consistent mass spectrum, nmr and a single peak in the HPLC.

reactant | leucylglycine | 27 mmol, 5 g | N[C@@H](CC(C)C)C(=O)NCC(=O)O | C8H16N2O3
reactant | SOCl2 | 35 mmol, 4.1 g | O=S(Cl)Cl | Cl2OS
reactant | ethanol | 30 ml | C(C)O | C2H6O
product | L-Leucylglycine Ethyl Ester Hydrochloride | Cl.C(C)OC(CNC([C@@H](N)CC(C)C)=O)=O | InChI=1S/C10H20N2O3.ClH/c1-4-15-9(13)6-12-10(14)8(11)5-7(2)3;/h7-8H,4-6,11H2,1-3H3,(H,12,14);1H/t8-;/m0./s1
